US08383827B2
A mixture of 3-(5-bromo-pyridin-3-yl)-propionic acid methyl ester (155 mg), 2,3-dichlorobenzeneboronic acid (142 mg, 0.744 mmol), PdCl2(dppf).CH2Cl2 adduct (48.6 mg, 0.059 mmol) and Na2CO3 (2 M, 0.929 ml, 1.859 mmol) in DMF (5 ml) was heated at 100° C. After 40 min, solvent was removed in vacuo. The residue was purified via flash column (EtOAc/Heptane=0-20-25%, v/v) to give 3-[5-(2,3-Dichloro-phenyl)-pyridin-3-yl]-propionic acid methyl ester (101 mg, 0.326 mmol, 43% yield). ESI-MS m/z: 310[M+1]+; 1H NMR (CDCl3, 400 MHz) δ 2.71 (t, J=7.6 Hz, 2H), 3.05 (t, J=7.6 Hz, 2H), 3.70 (s, 3H), 7.23 (dd, J=7.6, 1.6 Hz, 1H), 7.30 (t, J=7.6 Hz, 1H), 7.53 (dd, J=7.6, 1.6 Hz, 1H), 7.63 (s, 1H), 8.52 (s, 2H).

reactant | 3-(5-bromo-pyridin-3-yl)-propionic acid methyl ester | 155 mg | COC(CCC=1C=NC=C(C1)Br)=O | C9H10BrNO2
reactant | 2,3-dichlorobenzeneboronic acid | 0.744 mmol, 142 mg | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
reactant | CH2Cl2 | 0.059 mmol, 48.6 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 1.859 mmol, 2 M, 0.929 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[5-(2,3-Dichloro-phenyl)-pyridin-3-yl]-propionic acid methyl ester | 0.326 mmol, 101 mg, 43% yield | COC(CCC=1C=NC=C(C1)C1=C(C(=CC=C1)Cl)Cl)=O | C15H13Cl2NO2
